US07259159B2
1a) 4-(6-Chloro-purin-9-yl)-butyric acid ethyl ester
25 g (0.162 mol) of 6-chloropurine was dissolved in 500 ml of dimethylformamide and 89.4 g (0.647 mol) of potassium carbonate was added to this solution. 23.4 ml (0.162 mol) of 4-bromobutyric acid ethyl ester was added dropwise over a period of 4 hours. The solution was stirred for 16 h at room temperature. The solvent was removed in vacuo, the residue was dissolved in EE and the solution was washed three times with water and once with saturated aqueous sodium chloride solution. The organic phase was dried with sodium sulfate, filtered and the solvent was removed in vacuo. The residue was chromatographed on silica gel eluting with DCM/EE (1/1). Yield: 28.7 g.

reactant | 6-chloropurine | 0.162 mol, 25 g | ClC1=C2NC=NC2=NC=N1 | C5H3ClN4
reactant | potassium carbonate | 0.647 mol, 89.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-bromobutyric acid ethyl ester | 0.162 mol, 23.4 ml | C(C)OC(CCCBr)=O | C6H11BrO2
solvent | dimethylformamide | 500 ml | CN(C=O)C | C3H7NO
product | 4-(6-Chloro-purin-9-yl)-butyric acid ethyl ester | C(C)OC(CCCN1C2=NC=NC(=C2N=C1)Cl)=O | C11H13ClN4O2
